US07893056B2
4,6-Dichloro-5-fluoro-2-methylpyrimidine (0.18 g, 0.99 mmol) was dissolved in DMSO (1 mL). To this solution was added triethylamine (0.15 mL, 1.08 mmol), followed by commercially available N-methyl-1-(4-pyridinyl)methanamine (0.122 g, 1.0 mmol). The reaction was left to stir for 3 hours. Then hydrazine monohydrate was added, and the resulting reaction mixture was stirred overnight at room temperature. The reaction mixture was heated to 60° C. for 90 minutes. After cooling, the reaction mixture was purified by RP-HPLC to provide 5-fluoro-6-hydrazino-N,2-dimethyl-N-(4-pyridinylmethyl)-4-pyrimidinamine (0.130 g, 49%). LCMS: (M+H)+=263.0.

reactant | 4,6-Dichloro-5-fluoro-2-methylpyrimidine | 0.99 mmol, 0.18 g | ClC1=NC(=NC(=C1F)Cl)C | C5H3Cl2FN2
reactant | triethylamine | 1.08 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | N-methyl-1-(4-pyridinyl)methanamine | 1.0 mmol, 0.122 g | CNCC1=CC=NC=C1 | C7H10N2
reactant | hydrazine monohydrate | O.NN
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 5-fluoro-6-hydrazino-N,2-dimethyl-N-(4-pyridinylmethyl)-4-pyrimidinamine | 0.130 g, 49% | FC=1C(=NC(=NC1NN)C)N(CC1=CC=NC=C1)C | C12H15FN6
